US07291635B2
Chlorosulfonylisocyanate (1.42 mL, 16.4 mmol) is added to CH2Cl2 (20 mL) in a dry flask under argon balloon, and cooled with stirring in an ice/salt/water bath. t-Butanol (1.57 mL, 16.4 mmol) is added to this solution and stirred while maintaining the cooling for 1 h. Then a solution of the title C compound, [2-(t-butoxycarbonylmethyl-amino)-phenyl]-acetic acid methyl ester (3.84 g, 13.7 mmol) and TEA (5.7 mL, 41.1 mmol) in CH2Cl2 (90 mL) is rapidly cannulated into this above mentioned stirred, cooled solution. During 18 h the reaction slowly warms to RT, then concentrated and partitioned between EtOAc and 0.5N aqueous HCl (2×50 mL). The organic solution is washed with brine (25 mL), dried over anhydrous MgSO4, filtered and concentrated. The resulting residue is chromatographed on a 110 g silica gel RediSep (Isco Inc.) column with a 30 mL/min gradient elution of 10:90 (EtOAc:hexane) to 30:70 over 30 min, maintained at 30:70 for 15 min then to 50:50 over 6 min. Fractions containing product are combined and evaporated to give an oil which on standing in a high vacuum foamed to yield N-(t-butoxycarbonyl-sulfamoyl)-N-[2-(methoxycarbonylmethyl)-phenyl]-glycine t-butyl ester as a white foam: [M−1]−=457.

reactant | Chlorosulfonylisocyanate | 16.4 mmol, 1.42 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | O | H2O
reactant | t-Butanol | 16.4 mmol, 1.57 mL | C(C)(C)(C)O | C4H10O
reactant | [2-(t-butoxycarbonylmethyl-amino)-phenyl]-acetic acid methyl ester | 13.7 mmol, 3.84 g | COC(CC1=C(C=CC=C1)NCC(=O)OC(C)(C)C)=O | C15H21NO4
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(t-butoxycarbonyl-sulfamoyl)-N-[2-(methoxycarbonylmethyl)-phenyl]-glycine t-butyl ester | C(C)(C)(C)OC(CN(C1=C(C=CC=C1)CC(=O)OC)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C20H30N2O8S
